US05342846
5-Amino-7-[trans-3-hydroxy-4-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (63 mg, 0.21 mmol), trans-3-hydroxy-4-(1,2,3-triazol-1-yl)-pyrrolidine hydrochloride (100 mg, 0.52 mmol) and diazabicycloundecane (79 mg, 0.52 mmol) in pyridine was heated at 110° C. for 20 h. The reaction mixture was concentrated and the residue was triturated with water. The separated solid was filtered, washed with water and acetonitrile and dried under vacuum at 40° C. Yield: 35 mg (40%), m.p. 261°-165.5° C. 1H NMR (TFA) δ: 1.33-1.51 (m, 4H), 4.24 (m, 2H), 4.60 (m, 2H), 4.92 (m, 1H), 5.20 (m, 1H), 5.79 (m, 1H), 8.59 (d, 1H), 8.78 (s, 1H), 9.15 (s, 1H).

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.21 mmol, 63 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | trans-3-hydroxy-4-(1,2,3-triazol-1-yl)-pyrrolidine hydrochloride | 0.52 mmol, 100 mg | Cl.O[C@@H]1CNC[C@H]1N1N=NC=C1
reactant | diazabicycloundecane | 0.52 mmol, 79 mg | N1(NCCCCCCCCC1)C1CCCCCCCCCC1 | C20H40N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5-Amino-7-[trans-3-hydroxy-4-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@@H](C1)N1N=NC=C1)O)F)C1CC1)C(=O)O)=O | C19H18F2N6O4
